US06162819
1-Benzyl-3-(5-(N-(2-hydroxyethyl)carbamoyl)-2-furyl)indazole:
0.23 g (3.7 mmol) of ethanolamine were initially charged in 20 ml of THF and a solution of 0.5 g (1.5 mmol) of 1-benzyl-3-(5-chlorocarbonyl-2-furyl)indazole in 10 ml of THF was added dropwise. After 0.75 h, the mixture was poured into ice-water and the precipitate was filtered off with suction and recrystallized from ethyl acetate. This gave 0.33 g (62%) of the title compound. m.p.: 119-127° C.

reactant | ethanolamine | 3.7 mmol, 0.23 g | C(O)CN | C2H7NO
reactant | 1-benzyl-3-(5-chlorocarbonyl-2-furyl)indazole | 1.5 mmol, 0.5 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)Cl | C19H13ClN2O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(5-(N-(2-hydroxyethyl)carbamoyl)-2-furyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(NCCO)=O | C21H19N3O3
